US04605664
Step A: 6,7-Dichloro-2-cyclopentylmethyl-2,3-dihydro-5-methoxy-2-methyl-1H-inden-1-one
6,7-Dichloro-2-cyclopentylmethyl-2,3-dihydro-5-methoxy-1H-inden-1-one (56.7 g., 0.181 mole) dissolved in dry toluene (200 ml.) is added dropwise with stirring under nitrogen over 1 hour at room temperature to a suspension of sodium hydride (56% in mineral oil, 8.74 g. 0.204 mole) in toluene (50 ml) and dry dimethylformamide (220 ml.). The mixture is stirred at room temperature for 1.75 hours after completion of the addition, cooled to 0° C., and then methyl iodide (25 ml., 0.4 mole) is added at 0°-5° C. After stirring at 5° for 25 minutes and for one hour at room temperature methanol (15 ml.) is slowly added followed by acetic acid (10 ml.). The mixture is poured into ice water (1500 ml.) the layers are separated and the aqueous phase extracted three times with toluene (150 ml.) and then with methylene chloride (150 ml.). The oombined organic extracts are washed with water, dried over magnesium sulfate and concentrated under vacuum. The residue is triturated with a mixture of hexane and petroleum ether (1:1) are filtered. The solid (50 g.) is recrystallized from a mixture of methylcyclohexane (110 ml.) and hexane (55 ml.) to obtain 38 g. of product. m.p. 75°-77° C. The filtrates from the recrystallization are concentrated and the residue recrystallized from methylcyclohexane to obtain a second drop of 5.5 g. for a total yield of 73%.

reactant | 6,7-Dichloro-2-cyclopentylmethyl-2,3-dihydro-5-methoxy-1H-inden-1-one | 0.181 mole, 56.7 g | ClC1=C(C=C2CC(C(C2=C1Cl)=O)CC1CCCC1)OC | C16H18Cl2O2
reactant | sodium hydride | 0.204 mole, 8.74 g | [H-].[Na+]
reactant | methyl iodide | 0.4 mole, 25 ml | CI | CH3I
reactant | methanol | 15 ml | CO | CH4O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 220 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 6,7-Dichloro-2-cyclopentylmethyl-2,3-dihydro-5-methoxy-2-methyl-1H-inden-1-one | yield of 73% | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)CC1CCCC1)OC | C17H20Cl2O2
